### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Basic): projection of vertex to opposite face of simplex

### PR DESCRIPTION
**Pull request by jsm28**
Add two simple lemmas about the projection of a vertex of a simplex onto the opposite face (that arise while setting up the theory of `incenter` and `excenter`).

```lean
@[simp] lemma ne_orthogonalProjection_faceOpposite (i : Fin (n + 1)) : s.points i ≠
    orthogonalProjection (affineSpan ℝ (Set.range (s.faceOpposite i).points)) (s.points i) := by
```

```lean
lemma dist_orthogonalProjection_faceOpposite_pos (i : Fin (n + 1)) :
    0 < dist (s.points i)
      (orthogonalProjection (affineSpan ℝ (Set.range (s.faceOpposite i).points)) (s.points i)) := by
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Basic.lean [hunk 1]
```diff
@@ -628,3 +628,31 @@ theorem reflection_vadd_smul_vsub_orthogonalProjection {s : AffineSubspace ℝ P
...
+open EuclideanGeometry
+
+variable {V : Type*} {P : Type*}
+variable [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P]
+variable [NormedAddTorsor V P]
+
+variable {n : ℕ} [NeZero n] (s : Simplex ℝ P n)
+
+@[simp] lemma ne_orthogonalProjection_faceOpposite (i : Fin (n + 1)) : s.points i ≠
+    orthogonalProjection (affineSpan ℝ (Set.range (s.faceOpposite i).points)) (s.points i) := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Basic.lean:645]: style nit:
```suggestion
@[simp] lemma ne_orthogonalProjection_faceOpposite (i : Fin (n + 1)) :
    s.points i ≠
      orthogonalProjection (affineSpan ℝ (Set.range (s.faceOpposite i).points)) (s.points i) := by
```
to make it harder to miss the LHS
